US06399606B1
Ethyl 3-(3-Pyridylcarbonyl)but-3-enoate
A solution of ethyl 4-oxo-4-(3-pyridyl)butanoate (4 g), 37% aqueous formaldehyde (2.46 g) and piperidine (2.46 g) was stirred at room temperature for 18 h. The reaction mixture was diluted with 200 mL of ethyl acetate and washed with water (2×100 mL). The reaction mixture was concentrated and dissolved in ethanol (10 mL) and treated with 4N HCl/dioxane (4 mL) at 80° C. for 12 h. The reaction mixture was diluted with ethyl acetate (200 mL), washed with water (2×100 mL), saturated sodium bicarbonate solution (2×100 mL), concentrated and purified on flash chromatography (20% Ethyl acetate to 80% ethyl acetate in hexane) to give 2.28 g of the title compound, ESMS (M+1)+220.

reactant | ethyl 4-oxo-4-(3-pyridyl)butanoate | 4 g | O=C(CCC(=O)OCC)C=1C=NC=CC1 | C11H13NO3
reactant | formaldehyde | 2.46 g | C=O | CH2O
reactant | piperidine | 2.46 g | N1CCCCC1 | C5H11N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(3-Pyridylcarbonyl)but-3-enoate | 2.28 g | N1=CC(=CC=C1)C(=O)C(CC(=O)OCC)=C | C12H13NO3
